US04409214
To a suspension of benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer)(0.9 g) in methylene chloride (10 ml) and anisole (0.66 g) was added trifluoroacetic acid (2.5 g) under ice-cooling, followed by stirring at ambient temperature for an hour. The reaction mixture was added dropwise to diisopropyl ether (100 ml), and the precipitates were collected by filtration and suspended in a mixture of ethyl acetate and water, followed by adjusting to pH 7 with a saturated aqueous sodium bicarbonate. The separated aqueous solution was saturated with sodium chloride, and thereto was added a mixed solvent of ethyl acetate and tetrahydrofuran (8:2 by volume). After adjusting to pH 3.2 with 10% hydrochloric acid, the organic layer was separated out, washed with a saturated aqueous sodium chloride and then dried over magnesium sulfate. Removal of the solvent gave a residue, which was washed with diisopropyl ether to obtain 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid (syn isomer) (0.4 g).

reactant | benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate | 0.9 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC | C28H25N5O5S2
reactant | anisole | 0.66 g | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 2.5 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | diisopropyl ether | 100 ml | C(C)(C)OC(C)C | C6H14O
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 7-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid | 0.4 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O)=NOC | C15H15N5O5S2
